US05489570
n-Butyl lithium (101.6 ml of a 2.5M solution in hexane) was added during 30 minutes to a stirred solution of 2,5-dichloro-1-(trimethylacetylamino)benzene (25.0 g) in dry tetrahydrofuran at -40° C. and the solution stirred at -20° C. for 1.5 hours and poured onto solid carbon dioxide in dry tetrahydrofuran. The mixture was allowed to reach room temperature, 2M sodium hydroxide solution added and extracted with ethylacetate. The aqueous solution was acidified (concentrated hydrochloric acid) and the precipitated solid collected and dried to give 2-t-butyl-4-chlorobenzoxazole-7-carboxylic acid (1 1.7 g) m.p. 209°-210° C.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2,5-dichloro-1-(trimethylacetylamino)benzene | 25.0 g | ClC1=C(C=C(C=C1)Cl)NC(C(C)(C)C)=O | C11H13Cl2NO
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-t-butyl-4-chlorobenzoxazole-7-carboxylic acid | 1.7 g | C(C)(C)(C)C=1OC2=C(N1)C(=CC=C2C(=O)O)Cl | C12H12ClNO3
